US08008505B2
5.2 4-{2-[2-(4-Chloro-phenyl)-4,5,6,7-tetrahydro-2H-indazol-3-yl]-2-cyclohexyl-2-hydroxy-acetylamino}-3-fluoro-benzoic acid ethyl ester
To a solution of [2-(4-chloro-phenyl)-4,5,6,7-tetrahydro-2H-indazol-3-yl]-cyclohexyl-acetic acid (60 mg, 161 μmol) in CH2Cl2 (0.8 ml) under an argon atmosphere was added pyridine (16 μl, 202 μmol) and thionyl chloride (14 μl, 193 μmol). 4-Amino-3-fluoro-benzoic acid ethyl ester (29 mg, 161 μmol; CAS Reg. No. 73792-12-8) and pyridine (16 μl, 202 μmol) were added and the reaction mixture was stirred at ambient temperature for 48 h. Ice water/25% aqueous HCl solution 1/1 was added and the mixture was extracted three times with CH2Cl2. The combined extracts were washed with ice water/brine 1/1 and dried over Na2SO4. After filtration the solvent was removed under reduced pressure to give a brown solid which was purified by preparative thick layer chromatography (silica gel, iPrOAc/heptane) to obtain the title compound (9 mg, 16 μmol; 10%) as colorless solid. MS: m/e=554.4 [M+H+].

reactant | [2-(4-chloro-phenyl)-4,5,6,7-tetrahydro-2H-indazol-3-yl]-cyclohexyl-acetic acid | 161 μmol, 60 mg | ClC1=CC=C(C=C1)N1N=C2CCCCC2=C1C(C(=O)O)C1CCCCC1 | C21H25ClN2O2
reactant | pyridine | 202 μmol, 16 μl | N1=CC=CC=C1 | C5H5N
reactant | thionyl chloride | 193 μmol, 14 μl | S(=O)(Cl)Cl | Cl2OS
reactant | 4-Amino-3-fluoro-benzoic acid ethyl ester | C(C)OC(C1=CC(=C(C=C1)N)F)=O | C9H10FNO2
reactant | pyridine | 202 μmol, 16 μl | N1=CC=CC=C1 | C5H5N
solvent | CH2Cl2 | 0.8 ml | C(Cl)Cl | CH2Cl2
product | 4-{2-[2-(4-Chloro-phenyl)-4,5,6,7-tetrahydro-2H-indazol-3-yl]-2-cyclohexyl-2-hydroxy-acetylamino}-3-fluoro-benzoic acid ethyl ester | 16 μmol, 9 mg, 10% | C(C)OC(C1=CC(=C(C=C1)NC(C(O)(C1CCCCC1)C=1N(N=C2CCCCC12)C1=CC=C(C=C1)Cl)=O)F)=O | C30H33ClFN3O4
